* C:\Users\newtonis\InformesTC\TP2\EJ_1_simulaciones\EJ_1_simulaciones_NoInversor.asc
V2 N002 0 15
V1 0 N003 15
V3 INPUT 0 SINE(0 1 20k 0 0 0 10000) AC 1
XU3 N001 N004 N002 N003 OUTPUT LM324/NS
R1 N004 0 1.2k
R2 OUTPUT N004 1.2k
R3 INPUT N001 1.2k
R4 N001 0 4.99k
R5 OUTPUT 0 4.99k
.ac dec 100 5000 500000
.lib C:\Users\newtonis\Downloads\mate5\LM324.txt
.backanno
.end
