* C:\Users\ariel\InformesTC\TP2\EJ_1_simulaciones\EJ_1_simulaciones_NoInversor.asc
V2 N001 0 15
V1 0 N003 15
V3 INPUT 0 SINE(0 1 20k 0 0 0 10000) AC 1
XU3 N002 N004 N001 N003 OUTPUT LM324/NS
R1 N004 0 12k
R2 OUTPUT N004 1.2k
R3 N002 INPUT 12k
R4 0 N002 49.9k
R5 OUTPUT 0 49.9k
C N003 0 100p
C2 0 N001 100p
.ac dec 1000 50000 1000000
.lib C:\Users\ariel\Downloads\LM324.txt
.backanno
.end
